US09334269B2
To a solution of 6-cyclopropylisoquinoline (0.500 g, 0.003 mol) in EtOH (15 mL) was added indium powder (3 g) and saturated aqueous NH4Cl (5 mL). The reaction mixture was heated at reflux for 36 h while stirring. After completion, the reaction mixture was filtered through Celite® (diatomaceous earth) and the filtrate concentrated at reduced pressure to afford crude 6-cyclopropyl-1,2,3,4-tetrahydro-isoquinoline. Purification was done by silica gel column chromatography eluting with MeOH in CH2Cl2 (0-10%) to afford pure 6-cyclopropyl-1,2,3,4-tetrahydro-isoquinoline (0.300 g, 58%) as a white solid.

reactant | 6-cyclopropylisoquinoline | 0.003 mol, 0.500 g | C1(CC1)C=1C=C2C=CN=CC2=CC1 | C12H11N
reactant | indium | 3 g | [In] | In
reactant | NH4Cl | 5 mL | [NH4+].[Cl-]
solvent | EtOH | 15 mL | CCO | C2H6O
product | 6-cyclopropyl-1,2,3,4-tetrahydro-isoquinoline | 0.300 g, 58% | C1(CC1)C=1C=C2CCNCC2=CC1 | C12H15N
